US07317125B2
Preparation of benzoic acid N′-[2-(4,5-difluoro-2′-trifluoromethoxy-biphenyl-2-yloxy)-acetyl]-N′-isopropyl hydrazide
A solution of benzoic acid N′-[2-(2-bromo-4,5-difluoro-phenoxy)-acetyl]-N′-isopropyl-hydrazide (100 mg, 0.234 mmol) in DME (3 ml)/2M Na2CO3 (0.443 ml, 0.863 mmol) was treated with 2-trifluoromethoxybenzeneboronic acid (72 mg, 0.351 mmol) and Pd[PPh3]4 (54 mg, 0.046 mmol) in a microwave oven at 150° C. for 10 min. The reaction mixture was partitioned between water and ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated. The crude was absorbed on silica and purified on a silica gel column with a 20-40% ethyl acetate in hexanes gradient to afford the product as a white, crystalline solid (81 mg, 68%). MS m/e 509.24 (M+H+)

reactant | benzoic acid N′-[2-(2-bromo-4,5-difluoro-phenoxy)-acetyl]-N′-isopropyl-hydrazide | 0.234 mmol, 100 mg | BrC1=C(OCC(=O)N(NC(C2=CC=CC=C2)=O)C(C)C)C=C(C(=C1)F)F | C18H17BrF2N2O3
reactant | Na2CO3 | 0.863 mmol, 2M, 0.443 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-trifluoromethoxybenzeneboronic acid | 0.351 mmol, 72 mg | FC(OC1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O3
solvent | DME | 3 ml | COCCOC | C4H10O2
product | benzoic acid N′-[2-(4,5-difluoro-2′-trifluoromethoxy-biphenyl-2-yloxy)-acetyl]-N′-isopropyl hydrazide | 81 mg, 68% | FC1=CC(=C(C=C1F)C1=C(C=CC=C1)OC(F)(F)F)OCC(=O)N(NC(C1=CC=CC=C1)=O)C(C)C | C25H21F5N2O4
